US09102637B2
(a) 6-isothiocyanatoquinoline
1,1′-Thiocarbonyldiimidazole (740 mg, 4.16 mmol) was added portion-wise to a solution of quinolin-6-amine (0.50 g, 3.47 mmol) in DCM (15 mL) at 0° C., and the mixture was stirred at rt for 1.5 hrs. The reaction mixture was concentrated in vacuo, and the residue was purified by column chromatography eluted with DCM to give 0.60 g (93% yield) of the titled compound.

reactant | 1,1′-Thiocarbonyldiimidazole | 4.16 mmol, 740 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | quinolin-6-amine | 3.47 mmol, 0.50 g | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 6-isothiocyanatoquinoline | 0.60 g, 93% yield | N(=C=S)C=1C=C2C=CC=NC2=CC1 | C10H6N2S
